US05763439
Preparation of 2-tert-butyl-4-methyl-5-(4-pyridylcarbonylamino)pyridazin-3-(2H)-one (Compound No. 1)
0.72 of 5-amino-2-tert-butyl-4-methylpyridazin-3-(2H)-one, 0.57 g of 4-pyridylcarbonyl chloride, 0.55 g of anhydrous potassium carbonate and 30 ml of dry acetone were mixed and vigorously stirred at room temperature for 40 minutes. Acetone was distilled off under reduced pressure, and the residue was extracted with 150 ml of methylene chloride and washed twice with water. Then, It was dried over anhydrous sodium sulfate and concentrated. The residue thereby obtained was subjected to column chromatography, and using an eluent (n-hexane:ethyl acetate=1:2), 0.56 g of the desired product (Compound No. 1) having a melting point of from 206° to 207° C., was obtained.

reactant | 5-amino-2-tert-butyl-4-methylpyridazin-3-(2H)-one | NC1=C(C(N(N=C1)C(C)(C)C)=O)C | C9H15N3O
reactant | 4-pyridylcarbonyl chloride | 0.57 g | N1=CC=C(C=C1)C(=O)Cl | C6H4ClNO
reactant | potassium carbonate | 0.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 30 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | n-hexane | CCCCCC | C6H14
product | 2-tert-butyl-4-methyl-5-(4-pyridylcarbonylamino)pyridazin-3-(2H)-one | 0.56 g | C(C)(C)(C)N1N=CC(=C(C1=O)C)NC(=O)C1=CC=NC=C1 | C15H18N4O2
